US04382958
N-[2-(4-(11-Hydroxyundecyloxy)phenyl)1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)-ethanamine
The compound was prepared as in Example 4, from 1-[4-(11-hydroxyundecyloxy)phenyl]propan-2-one (7.3 g) and 2-hydroxy-2-(3-trifluoromethylphenyl)-ethanamine (4.7 g) and purified by chromatography on silica gel in 5% methanol dichloromethane, mp 45°-50° C. as a 50:50 mixture of diastereoisomers.

reactant | 1-[4-(11-hydroxyundecyloxy)phenyl]propan-2-one | 7.3 g | OCCCCCCCCCCCOC1=CC=C(C=C1)CC(C)=O | C20H32O3
reactant | 2-hydroxy-2-(3-trifluoromethylphenyl)-ethanamine | 4.7 g | OC(CN)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
product | N-[2-(4-(11-Hydroxyundecyloxy)phenyl)1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)-ethanamine | OCCCCCCCCCCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C29H42F3NO3
